US06689733B1
N,N′-Bis[4-(N-ethyl-N-methylamino)salicylidene]-1,2-ethylenediamine
A solution of 80 mg (1.33 mmol) of ethylenediamine is added dropwise, at room temperature, to a solution of 500 mg (2.79 mmol) of 4-(N-ethyl-N-methylamino)salicylaldehyde and the reaction solution is heated for 4 hours at 70° C. After cooling to room temperature, the precipitate formed is filtered off, washed with a small amount of cold ethanol and dried in a vacuum drying cabinet at 30° C.

reactant | ethylenediamine | 1.33 mmol, 80 mg | C(CN)N | C2H8N2
reactant | 4-(N-ethyl-N-methylamino)salicylaldehyde | 2.79 mmol, 500 mg | C(C)N(C)C=1C=C(C(C=O)=CC1)O | C10H13NO2
product | N,N′-Bis[4-(N-ethyl-N-methylamino)salicylidene]-1,2-ethylenediamine | C(C)N(C)C=1C=C(C(C=NCCN=CC=2C(O)=CC(=CC2)N(CC)C)=CC1)O | C22H30N4O2
